US06291460B1
d) 3-Chloro-6-hydrazino-4-(pyrrolidin-1-yl)pyridazine
3,6-Dichloro-4-(pyrrolidin-1-yl)pyridazine (7.2 g, 33 mmol) and hydrazine hydrate (9.96 g, 0.2 mol) were heated at reflux in dioxan (130 ml) for 6 h. Upon cooling the desired isomer crystallized from the reaction and was collected by filtration (4.1 g, 58%). 1H NMR (250 MHz, d6-DMSO) 1.79-1.84 (4H, m), 3.25-3.40 (4H, m), 4.12 (2H, br), 6.09 (1H, s), 7.47 (1H, s). MS (ES+) 214 [MH]+, 216 [MH]+.

reactant | 3,6-Dichloro-4-(pyrrolidin-1-yl)pyridazine | 33 mmol, 7.2 g | ClC=1N=NC(=CC1N1CCCC1)Cl | C8H9Cl2N3
reactant | hydrazine hydrate | 0.2 mol, 9.96 g | O.NN
solvent | dioxan | 130 ml | O1CCOCC1 | C4H8O2
product | 3-Chloro-6-hydrazino-4-(pyrrolidin-1-yl)pyridazine | ClC=1N=NC(=CC1N1CCCC1)NN | C8H12ClN5
